US06989402B1
3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-2-toluenesulphonamide
3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid (0.035 mmol) was coupled with 2-toluenesulphonamide (0.175 mmol) using the method described in Example 58. Purification on HPLC of the residue gave 15 mg (74%) of the title compound.

reactant | 3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid | 0.035 mmol | BrC=1C=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Br | C17H16Br2O4
reactant | 2-toluenesulphonamide | 0.175 mmol | C=1(C(=CC=CC1)S(=O)(=O)N)C | C7H9NO2S
product | 3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-2-toluenesulphonamide | 15 mg, 74% | BrC=1C=C(C(=O)C2=C(C(=CC=C2)C)S(=O)(=O)N)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C23H21Br2NO5S
